US08222262B2
(4-Chloro-phenyl)-[2-(5-nitro-indazol-2-yl)-pyrimidin-4-yl]-amine (Compound A9)
Was prepared according to Method A from 2,4-dichloropyrimidine, 4-chloroaniline and 5-nitroindazole. LC-ESI-HRMS of [M+H]+ shows 367.0692 Da. Calc. 367.071027 Da, dev. −5 ppm.

reactant | 2,4-dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 5-nitroindazole | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
product | (4-Chloro-phenyl)-[2-(5-nitro-indazol-2-yl)-pyrimidin-4-yl]-amine | ClC1=CC=C(C=C1)NC1=NC(=NC=C1)N1N=C2C=CC(=CC2=C1)[N+](=O)[O-] | C17H11ClN6O2
